US04211723
Benzotrichloride is chlorosulfonated with chlorosulfonic acid to yield m-chlorosulfonylbenzotrichloride, and the product is heated to obtain m-chlorosulfonylbenzoylchloride. (U.S. Pat. No. 3,290,370)

reactant | Benzotrichloride | C1(=CC=CC=C1)C(Cl)(Cl)Cl | C7H5Cl3
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | m-chlorosulfonylbenzotrichloride | ClS(=O)(=O)C=1C=C(C=CC1)C(Cl)(Cl)Cl | C7H4Cl4O2S
